US04946787
N-(2,3-Di-(9-(Z)-octadecenyloxy))prop-1-yl-N,N,-dimethylamine (of formula (4))
In accordance with Reaction Scheme I, a mixture of 3-(dimethylamino)-1,2-propanediol (1.19 g, 10 mmol), potassium tert-butoxide (3.36 g, 30 mmol) and oleyl toluenesulfonate (12.7 g, 30 mmol) in xylenes (50 ml) was stirred at room temperature under house vacuum (approx. 30 torr) for 0.5 hour. The mixture was heated to 50° C. and stirred for an additional 0.25 hour. The vacuum was removed and the reaction vessel was filled with nitrogen gas to room pressure (approx. 1 atm.). The temperature was increased until the reaction boiled (approximately 140° C.) and the mixture was stirred at reflux for 3 hours. The mixture was diluted with hexane (100 ml) and extracted with water (2×50 ml). The organic layer was concentrated, applied to a column of silica gel (150 g) packed in hexanes in ether (1:2), then eluted with the same solvent mixture to give the title compound (4.5 g) was an oil.

reactant | 3-(dimethylamino)-1,2-propanediol | 10 mmol, 1.19 g | CN(CC(CO)O)C | C5H13NO2
reactant | potassium tert-butoxide | 30 mmol, 3.36 g | CC(C)([O-])C.[K+]
reactant | oleyl toluenesulfonate | 30 mmol, 12.7 g | C=1(C(=CC=CC1)S(=O)(=O)OCCCCCCCC\C=C/CCCCCCCC)C | C25H42O3S
product | N-(2,3-Di-(9-(Z)-octadecenyloxy))prop-1-yl-N,N,-dimethylamine | 4.5 g | C(CCCCCCC\C=C/CCCCCCCC)OC(CN(C)C)COCCCCCCCC\C=C/CCCCCCCC | C41H81NO2
